US05578735
Synthesis of 5,6-dihydroxyindole
11.4 g of benzyl 5,6-dihydroxy-2,3-dihydroindole-1-carboxylate, 60 ml of ethanol, 5.7 g of 10% palladium-on-charcoal, 5.7 ml of water and 23 ml of cyclohexene were mixed together, and the mixture was maintained at reflux for one hour.

reactant | benzyl 5,6-dihydroxy-2,3-dihydroindole-1-carboxylate | 11.4 g | OC=1C=C2CCN(C2=CC1O)C(=O)OCC1=CC=CC=C1 | C16H15NO4
reactant | ethanol | 60 ml | C(C)O | C2H6O
reactant | cyclohexene | 23 ml | C1=CCCCC1 | C6H10
catalyst | palladium-on-charcoal | 5.7 g | [Pd] | Pd
solvent | water | 5.7 ml | O | H2O
product | 5,6-dihydroxyindole | OC=1C=C2C=CNC2=CC1O | C8H7NO2
